US07034052B2
To a mixture of 2-(3,5-dichloro-pyridin-4-yl)-1-(3-ethoxy-4-methoxy-phenyl)-ethanol (500 mg, 1.5 mmol) and PPh3 (0.60 g, 2.3 mmol), was added DIAD (0.44 mL, 2.2 mmol) at 0° C. After 5 min, (PhO)2PON3 was added to the mixture at 0° C. The mixture was allowed to warm to room temperature overnight. To the mixture was added PPh3 (0.9 g, 3.5 mmol) and water (2 mL). The mixture was heated to reflux for 6 hrs. The mixture was extracted with ether (25 mL) and 1N HCl (2×25 mL). The aqueous layer was basified with 10 N sodium hydroxide until pH=14. The aqueous layer was extracted with methylene chloride (2×50 mL). The combined organic layer was concentrated to give an oil. A mixture of the resulted oil, 2-bromomethyl-6-(cyclopropanecarbonyl-amino)-benzoic acid methyl ester (100 mg, 0.64 mmol) and triethyl amine (0.1 mL, 0.7 mmol) in DMF (5 mL) was heated at 80° C. for 27 hrs. The solvent was removed in vacuo. The residue was extracted with ethyl acetate (50 mL) and water (50 mL). The organic layer was washed with water (50 mL) and brine (50 mL). The solvent was removed in vacuo. The residue was purified with Preparative HPLC to give cyclopropanecarboxylic acid {2-[2-(3,5-dichloro-pyridin-4-yl)-1-(3-ethoxy-4-methoxy-phenyl)-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide (130 mg, 16% yield): mp, 159–161° C.; 1H NMR (CDCl3) δ 0.81–0.91 (m, 2H, CH2), 1.01–1.09 (m, 2H, CH2), 1.45 (t, J=7 Hz, 3H, CH3), 1.56–1.63 (m, 1H, CH), 3.68 (dd, J=4, 13 Hz 1H, CHH), 3.79 (dd, J=11, 13 Hz, 1H, CHH), 3.89 (s, 3H, CH3), 3.91 (d, J=17 Hz, 1H, NCHH), 4.08 (q, J=7 Hz, 2H, CH2), 4.56 (d, J=17 Hz, 1H, NCHH), 5.94 (dd, J=4, 11 Hz, 1H, NCH), 6.86 (m, 4H, Ar), 7.41 (t, J=8 Hz, 1H, Ar), 8.40 (d, J=8 Hz, 1H, Ar), 8.43 (s, 2H, pyr), 10.28 (s, 1H, NH); 13C NMR (CDCl3) δ 8.27, 14.76, 16.09, 33.22, 46.71, 52.63, 56.00, 64.66, 111.44, 112.69, 116.62, 116.95, 117.67, 119.52, 130.65, 133.11, 133.19, 137.96, 141.40, 142.89, 147.59, 148.75, 149.52, 169.32, 172.75; Anal Calcd for C28H27N3O4Cl2: C, 62.23; H, 5.04; N, 7.78. Found: C, 61.99; H, 5.09; N, 7.43.

reactant | 2-(3,5-dichloro-pyridin-4-yl)-1-(3-ethoxy-4-methoxy-phenyl)-ethanol | 1.5 mmol, 500 mg | ClC=1C=NC=C(C1CC(O)C1=CC(=C(C=C1)OC)OCC)Cl | C16H17Cl2NO3
reactant | PPh3 | 2.3 mmol, 0.60 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 2.2 mmol, 0.44 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | (PhO)2PON3 | P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)N=[N+]=[N-] | C12H10N3O3P
reactant | PPh3 | 3.5 mmol, 0.9 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 2-bromomethyl-6-(cyclopropanecarbonyl-amino)-benzoic acid methyl ester | 0.64 mmol, 100 mg | COC(C1=C(C=CC=C1NC(=O)C1CC1)CBr)=O | C13H14BrNO3
reactant | triethyl amine | 0.7 mmol, 0.1 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 2 mL | O | H2O
product | cyclopropanecarboxylic acid {2-[2-(3,5-dichloro-pyridin-4-yl)-1-(3-ethoxy-4-methoxy-phenyl)-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide | 130 mg, 16% yield | ClC=1C=NC=C(C1CC(C1=CC(=C(C=C1)OC)OCC)N1CC2=CC=CC(=C2C1=O)NC(=O)C1CC1)Cl | C28H27Cl2N3O4
